US05668291
2-Mercaptobenzophenone
To a solution of N,N,N',N'-tetramethylethylene diamine (4.4 g, 0.038 mol) and thiophenol (2 g, 0.018 mol) in cyclohexane (40 mL) was added dropwise n-butyllithium (24 mL, 0.038 mol) at room temperature. The suspension was stirred under nitrogen for 16 hours, followed by the dropwise addition of N-methoxy-N-methylbenzamide (3.3 g, 0.019 mol). After stirring for 20 minutes, the reaction mixture was added to cold aqueous HCl (1N). The product was partitioned between ethyl acetate and the acidic solution. The layers were separated and the organic portion was washed with brine, dried (Na2SO4), filtered, and the filtrate was concentrated in vacuo. The liquid obtained was purified using silica gel chromatography (75% hexane/25% ethyl acetate) to give 2.3 g of the title compound as a viscous yellow liquid.

reactant | N,N,N',N'-tetramethylethylene diamine | 0.038 mol, 4.4 g | CN(CCN(C)C)C | C6H16N2
reactant | thiophenol | 0.018 mol, 2 g | C1(=CC=CC=C1)S | C6H6S
reactant | n-butyllithium | 0.038 mol, 24 mL | C(CCC)[Li]
reactant | N-methoxy-N-methylbenzamide | 0.019 mol, 3.3 g | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
reactant | HCl | 1N | Cl | ClH
solvent | cyclohexane | 40 mL | C1CCCCC1 | C6H12
product | 2-Mercaptobenzophenone | 2.3 g | SC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H10OS
